US04172093
(c) 3'-β-aminoethylidene-spiro(cyclopentane-1,1'-indan)
A solution of spiro(cyclopentane-1,1'-indan)-3'-ylideneacetonitrile (10.5 g; 0.05 moles) in anhydrous ether (100 ml) is added dropwise under agitation to lithium aluminum hydride (2.5 g; 0.066 moles) suspended in ether (200 ml). After boiling for 3 hours the mixture is cooled to room temperature and the excess of hydride is decomposed by dropwise addition of a saturated sodium sulphate solution. The precipitate obtained is filtered off and washed with ether. The ether solutions are shaken with 2 N hydrochloric acid. The acid extracts are concentrated to a small volume in vacuum (bath temperature below 40° C.) and the amine hydrochloride is precipitated by treatment with conc. hydrochloric acid in the cooled. Yield 10.6 g (85%). Recrystallization from 2-propanol yields colourless crystals of mp. 190° C. identical with the product prepared according to example 3g.

reactant | spiro(cyclopentane-1,1'-indan)-3'-ylideneacetonitrile | 0.05 moles, 10.5 g | C12(CC(C3=CC=CC=C13)=CC#N)CCCC2 | C15H15N
reactant | lithium aluminum hydride | 0.066 moles, 2.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydride | [H-]
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 3'-β-aminoethylidene-spiro(cyclopentane-1,1'-indan) | NCC=C1CC2(C3=CC=CC=C13)CCCC2 | C15H19N
